US07691882B2
2-Methyl-6-(4-(2-nitro-ethyl)-benzyloxy)pyridine
To a solution of 2-methyl-6-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine (5.00 g, 18.5 mmol) described in Manufacturing Example 3-1-3 and acetic acid (5 mL) in dimethyl sulfoxide (50 mL) was added sodium borohydride (1.2 g, 29.6 mmol) under nitrogen atmosphere at room temperature while cooling appropriately, which was stirred for 10 minutes at room temperature. Water was then added dropwise. The mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:5 then 1:2) to obtain the title compound (2.8 g, 56%).

reactant | 2-methyl-6-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 18.5 mmol, 5.00 g | CC1=NC(=CC=C1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 29.6 mmol, 1.2 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2-Methyl-6-(4-(2-nitro-ethyl)-benzyloxy)pyridine | 2.8 g, 56% | CC1=NC(=CC=C1)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H16N2O3
